US05047174
Zirconium n-butoxide.
1 butanol (171.6 gm) was mixed with 125 ml of n-propanol and placed in a one liter, three-neck round-bottom flask under nitrogen atmosphere. The concentration of zirconium was 0.95 molar. A solution of 28.8 ml of deionized water in 125 ml of n-propanol was added through an addition funnel under nitrogen atmosphere to the solution in the flask with rapid stirring for two minutes. The stirring was stopped, and the mixture was left to stand for three hours. The mixture was then centrifuged, and the mother liquor was discarded. The solid residue was ultrasonically dispersed in 2-propanol and then centrifuged to harvest the supernatant sol. This procedure was repeated several times.

reactant | 1 butanol | 171.6 gm | C(CCC)O | C4H10O
reactant | zirconium | [Zr] | Zr
reactant | water | 28.8 ml | O | H2O
solvent | n-propanol | 125 ml | C(CC)O | C3H8O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | n-propanol | 125 ml | C(CC)O | C3H8O
product | Zirconium n-butoxide | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Zr+4] | InChI=1S/4C4H9O.Zr/c4*1-2-3-4-5;/h4*2-4H2,1H3;/q4*-1;+4
